US04088764
7.5 g of nicotinoyl-acetone are dissolved in 45 ml of anhydrous ethanol and, after adding 20 ml of ammonia, the mixture is then stirred for 3 days at 50° C in an autoclave. Concentrating the clear solution leaves an oil which becomes solid after a short time. After recrystallisation from toluene, 2-nicotinoyl-1-methylvinylamine (melting point 82°) is obtained in a 91% yield.

reactant | nicotinoyl-acetone | 7.5 g | C(C1=CN=CC=C1)(=O)CC(C)=O | C9H9NO2
reactant | ammonia | 20 ml | N | H3N
solvent | ethanol | 45 ml | C(C)O | C2H6O
product | 2-nicotinoyl-1-methylvinylamine | 91% yield | C(C1=CN=CC=C1)(=O)C=C(C)N | C9H10N2O
